US04115385
A stirred solution of 1.80 g. of phenyl chlorocarbonyl ketene (U.S. Pat. No. 3,679,801) in 20 ml. of chloroform is cooled to -40° C., and then 0.94 g of phenol is added. Stirring is continued at -40° C. for a further 20 minutes, and then a solution of 2.40 g. of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam and 1.40 ml of triethylamine in 50 ml. of chloroform is added dropwise. The cooling bath is removed, and the mixture is stirred for a further 30 minutes. The mixture is filtered, and the chloroform is evaporated in vacuo to give crude 6-(2-phenoxycarbonyl-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam, as its triethylamine salt.

reactant | phenyl chlorocarbonyl ketene | C1(=CC=CC=C1)C(=C=O)C(=O)Cl | C9H5ClO2
reactant | phenol | 0.94 g | C1(=CC=CC=C1)O | C6H6O
reactant | 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
product | 6-(2-phenoxycarbonyl-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | O(C1=CC=CC=C1)C(=O)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O)C1=CC=CC=C1 | C23H22N6O4S
